US03970454
b. Preparation of N-methyl-8-hydroxy-1,2,3,4-tetrahydroquinoline
One introduces into a steel autoclave 54.2 g of N-methyl-8-hydroxyquinolinium methylsulfate (i.e. 0.2 mole) in 100 ml of water and 5 g of activated Raney nickel. The hydrogenation is effected under a hydrogen pressure of from 70 to 80 kg/cm2, at a temperature of 80°C. After cooling, one filters off the catalyst and one neutralizes with an ammonia solution. One dries the crystallized product that is formed and one recrystallizes it in methanol.

reactant | N-methyl-8-hydroxyquinolinium methylsulfate | 0.2 mole | COS(=O)(=O)[O-].C[N+]1=CC=CC2=CC=CC(=C12)O
reactant | ammonia | N | H3N
solvent | water | 100 ml | O | H2O
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | N-methyl-8-hydroxy-1,2,3,4-tetrahydroquinoline | CN1CCCC2=CC=CC(=C12)O | C10H13NO
